US05919970
A neat solution of 18.6 mL (15 g, 118.8 mmol) of 1,3-diisopropylcarbodiimide and 60 mg (0.6 mmol) of cuprous chloride was placed under a blanket of argon and then cooled to 0° C. in an ice bath. To this reaction mixture was added dropwise (via syringe) 12.9 mL (13.5 g, 124.7 mmol) of benzyl alcohol. The resultant green reaction mixture was allowed to stir at 0° C. overnight, filtered through celite (rinsing with hexane) and the filtrate then Kugelrohr distilled (105° C., 2mm Hg) to give 2-benzyl-1,3-diisopropyl isourea as a clear, colorless oil. To a solution of 650 mg (4.7 mmol) of 4-hydroxybenzoic acid in 20 mL of tetrahydrofuran was added 1.1 g (4.7 mmol) of 2-benzyl-1,3-diisopropyl isourea. The reaction mixture was allowed to stir at ambient temperature overnight, filtered (rinsing with tetrahydrofuran) and then concentrated in vacuo. Purification by flash chromatography (silica, 25% ethyl acetate in hexane) gave the title compound as a white solid.

reactant | 1,3-diisopropylcarbodiimide | 118.8 mmol, 18.6 mL, 15 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | benzyl alcohol | 124.7 mmol, 12.9 mL, 13.5 g | C(C1=CC=CC=C1)O | C7H8O
product | 2-benzyl-1,3-diisopropyl isourea | C(C1=CC=CC=C1)OC(NC(C)C)=NC(C)C | C14H22N2O
